US06294558B1
1-(4-[[tert-Butyl(dimethyl)silyl]oxy]-3-ethylphenyl)-4,4,4-trifluoro-1,3-butanedione (step 3)
To a stirred solution of 1,1,1,3,3,3-hexamethyldisilazane (1.79 g, 11.1 mmol) in THF (37 ml) was added n-butyl lithium (1.52 M solution in hexane; 7.3 ml, 11.1 mmol) dropwise at 0° C., and the mixture was stirred at 0° C. for 30 minutes, then cooled at −78° C. A solution of 1-(4-[[tert-butyl(dimethyl)silyl]oxy]-3-ethylphenyl)-1-ethanone (2.57 g, 9.23 mmol) in THF (40 ml) was added dropwise, and the mixture was stirred at −78° C. for 1 hour. 1-(Trifluoroacetyl)imidazole (2.0 g, 12.2 mmol) was added, and the mixture was stirred at −78° C. for 3 hours, and quenched with water. The reaction mixture was warmed up to room temperature, and diluted with ethyl acetate. The whole was extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was used for next reaction without further purification. (3.45 g, 99% yield).

reactant | 1,1,1,3,3,3-hexamethyldisilazane | 11.1 mmol, 1.79 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyl lithium | 11.1 mmol, 1.52 M, 7.3 ml | C(CCC)[Li]
reactant | 1-(4-[[tert-butyl(dimethyl)silyl]oxy]-3-ethylphenyl)-1-ethanone | 9.23 mmol, 2.57 g | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C(C)=O)CC | C16H26O2Si
reactant | 1-(Trifluoroacetyl)imidazole | 12.2 mmol, 2.0 g | FC(C(=O)N1C=NC=C1)(F)F | C5H3F3N2O
solvent | THF | 37 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 1-(4-[[tert-Butyl(dimethyl)silyl]oxy]-3-ethylphenyl)-4,4,4-trifluoro-1,3-butanedione | 99% yield | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)C(CC(C(F)(F)F)=O)=O)CC | C18H25F3O3Si
